US07015220B2
3-{[4-(3-Diethylamino-propoxy)-3-fluoro-phenylamino]-methylene}-4-methyl-1,3-dihydro-indol-2-one
In a manner similar to that described in Example 231, 4-(3-diethylamino-propoxy)-3-fluoro-phenylamine (400 mg, 1.1 equiv.) and 4-methyl-3-hydroxymethylene-1,3-dihydro-indol-2-one (263 mg, 1.5 mmol, 1 equiv.) are reacted to give the named compound as a yellow solid (294 mg, 49%).

reactant | 4-(3-diethylamino-propoxy)-3-fluoro-phenylamine | 400 mg, 1.1 equiv. | C(C)N(CCCOC1=C(C=C(C=C1)N)F)CC | C13H21FN2O
reactant | 4-methyl-3-hydroxymethylene-1,3-dihydro-indol-2-one | 1.5 mmol, 263 mg, 1 equiv. | CC1=C2C(C(NC2=CC=C1)=O)=CO | C10H9NO2
product | 3-{[4-(3-Diethylamino-propoxy)-3-fluoro-phenylamino]-methylene}-4-methyl-1,3-dihydro-indol-2-one | 294 mg, 49% | C(C)N(CCCOC1=C(C=C(C=C1)NC=C1C(NC2=CC=CC(=C12)C)=O)F)CC | C23H28FN3O2
